US05166206
Step C: 6-Butyl-4-cyano-2-methyl-5-[(4-iodophenyl)methyl]pyrimidine
A mixture of 800 mg (8.94 mmol) CuCN and 10 mL pyridine was heated to 110° C. until all of the CuCN went into solution (7 minutes). To this mixture was added a solution of 440 mg (0.894 mmol) 6-butyl-4-iodo-2-methyl-5-[(4-iodophenyl)methyl]pyrimidine in 3 mL pyridine. After 5 minutes, the reaction mixture was cooled to room temperature, diluted with CH2Cl2, filtered through powdered cellulose flock, stripped of solvent in vacuo, and was medium pressure chromatographed on silica gel using 13% EtOAc/hexane to give 306 mg of the title compound, 87% yield. Rf 0.29 in 15% EtOAc/hexane, visualized by UV and ammonium molybdate/ceric sulfate stain;

reactant | CuCN | 8.94 mmol, 800 mg | C(#N)[Cu]
reactant | 6-butyl-4-iodo-2-methyl-5-[(4-iodophenyl)methyl]pyrimidine | 0.894 mmol, 440 mg | C(CCC)C1=C(C(=NC(=N1)C)I)CC1=CC=C(C=C1)I | C16H18I2N2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 6-Butyl-4-cyano-2-methyl-5-[(4-iodophenyl)methyl]pyrimidine | 306 mg, 87% yield | C(CCC)C1=C(C(=NC(=N1)C)C#N)CC1=CC=C(C=C1)I | C17H18IN3
